US07195649B2
Step 10.1: 5-Amino-1-(4-chlorophenyl)pyrazole
21.5 g (0.12 mol) of 4-chlorophenylhydrazine hydrochloride was suspended in 150 mL of methanol, 5 mL of concentrated hydrochloric acid was added, and the mixture was heated at reflux, which gave a clear, yellow-brown solution. To this solution was added dropwise 11.5 g (0.12 mol) of dimethylaminoacrylonitrile over a period of 30 minutes. After 1.5 h at reflux, most of the solvent was removed under vacuum. The remaining residue was taken up in 40 mL of dimethylformamide, and 9 mL of concentrated ammonia solution was added at room temperature. The resulting white precipitate was filtered off and discarded. The clear filtrate was used in Step 10.2 without further purification.

reactant | 4-chlorophenylhydrazine hydrochloride | 0.12 mol, 21.5 g | Cl.ClC1=CC=C(C=C1)NN
reactant | hydrochloric acid | 5 mL | Cl | ClH
reactant | dimethylaminoacrylonitrile | 0.12 mol, 11.5 g | CN(C)C(C#N)=C | C5H8N2
solvent | methanol | 150 mL | CO | CH4O
product | 5-Amino-1-(4-chlorophenyl)pyrazole | NC1=CC=NN1C1=CC=C(C=C1)Cl | C9H8ClN3
